US04159338
(G) 4-(4-Fluorophenyl)-2-(1,1,2,2-tetrafluoroethylthio)-5-(2-thienyl)-1H-imidazole.
A solution of 14.0 g of 4-(4-fluorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol in 40 ml of dimethylformamide and 1.5 g of diisopropylamine was pressured in a bomb with 4 g of tetrafluoroethylene. The pressure dropped from 160 psi to 0 in 1.5 hrs. The solution was poured into water, stirred until most of gum solidified, filtered and washed with water. The solid was dissolved in chloroform, dried over anhydrous sodium sulfate, concentrated and diluted with 1-chlorobutane. The crystalline product was collected; yield 2.5 g, m.p. 164°-168° C. The residue from the filtrate was chromatographed on silica gel (Silicar CC-4) using chloroform to give 4.1 g, m.p. 167.5°-170° C. The combined 6.5 g was crystallized from 1-chlorobutane to give 5.6 g, m.p. 167°-168.5° C.

reactant | 4-(4-fluorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol | 14.0 g | FC1=CC=C(C=C1)C=1N=C(NC1C=1SC=CC1)S | C13H9FN2S2
reactant | diisopropylamine | 1.5 g | C(C)(C)NC(C)C | C6H15N
reactant | tetrafluoroethylene | 4 g | FC(=C(F)F)F | C2F4
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-(4-Fluorophenyl)-2-(1,1,2,2-tetrafluoroethylthio)-5-(2-thienyl)-1H-imidazole | FC1=CC=C(C=C1)C=1N=C(NC1C=1SC=CC1)SC(C(F)F)(F)F | C15H9F5N2S2
